US08466199B2
The reaction of methyl 5-bromo-2-hydroxyl-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-5-bromo-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.98 (s, —CO2H); 7.73 (m, larom. H); 7.62 (m, 1 arom. H); 7.07 (m, 1 arom. H); 5.99 (m, —CH═CH2); 5.47, 5.25 (2 d-like, CH═CH2); 4.62 (d-like, CH2—CH═CH2). 13C-NMR (100 MHz, d6-DMSO): 165.99 (C═O); 156.10; 135.10; 133.00; 132.65; 123.86; 117.15; 116.12; 111.34; 68.84.

reactant | methyl 5-bromo-2-hydroxyl-benzoate | BrC=1C=CC(=C(C(=O)OC)C1)O | C8H7BrO3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-5-bromo-benzoic acid | C(C=C)OC1=C(C(=O)O)C=C(C=C1)Br | C10H9BrO3
